US07696223B2
b) 4-Cyano-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-bromo-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (197 mg, 0.48 mmole), tris(dibenzylideneacetone)-dipalladium(0)(22 mg, 0.02 mmole), 1,1′-bis(diphenylphosphino)ferrocene (27 mg, 0.04 mmole), zinc cyanide (27 mg, 0.29 mmole) and zinc (4 mg, 0.06 mmole) in dimethylacetamide (968 μl) was stirred at 120° C. for 4.5 h before it was cooled to room temperature, partitioned between ethyl acetate and water, filtered. The filtrate washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of methanol and dichloromethane to give the title compound as a yellow solid (32 mg). MS: (+) m/z 356.24 (M+1), MS: (−) m/z 354.24 (M−1).

reactant | 4-bromo-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.48 mmole, 197 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C2=CC(=CC=C2)OC)O | C16H13BrN2O4S
reactant | dimethylacetamide | 968 μl | CC(=O)N(C)C | C4H9NO
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.02 mmole, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.04 mmole, 27 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 0.29 mmole, 27 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.06 mmole, 4 mg | [Zn] | Zn
product | 4-Cyano-7-hydroxy-2-(3-methoxy-phenyl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 32 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C#N)N=C(S2)C2=CC(=CC=C2)OC)O | C17H13N3O4S
